US05712413
A cesium phosphotungstate catalyst is prepared according to the procedure of Example 1. A Parr pressure reactor is charged with 2.05 g of Cs2.5 H0.5 PW12O40, 32.24 g of acrylonitrile plus 30 ppm MEHQ, 13.54 g of 2,4,4 trimethyl-1-pentene, 3.27 g of distilled H2O, and 0.025 g of MEHQ. The reactor is sealed with air in the head space. The contents are heated to 120° C. for 12 hours, developing a pressure of 50 psig. Upon cooling the contents are diluted with toluene and centrifuged to separate the solids. The liquid organic phase is reduced to constant weight on a rotary evaporator with heating up to 45° C. to isolate 2.07 g of 2,4,4-trimethylpentylacrylamide.

reactant | acrylonitrile | 32.24 g | C(C=C)#N | C3H3N
reactant | MEHQ | COC1=CC=C(C=C1)O | C7H8O2
reactant | 2,4,4 trimethyl-1-pentene | 13.54 g | CC(=C)CC(C)(C)C | C8H16
reactant | H2O | 3.27 g | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | MEHQ | 0.025 g | COC1=CC=C(C=C1)O | C7H8O2
product | 2,4,4-trimethylpentylacrylamide | 2.07 g | CC(CC(C(=O)N)=C)CC(C)(C)C | C11H21NO
